US06677324B1
1.86 g of 11β-fluoro-7α-{5-[(3,4,4,5,5,5-hexafluoro-pent-2-enyl)methylamino]pentyl}-3-hydroxyestra-1,3,5(10)-trien-17-one are dissolved in 15 ml of methanol and cautiously treated with 222 mg of sodium borohydride. After stirring at room temperature for 15 minutes, the mixture is added to saturated sodium chloride solution, extracted with methylene chloride, dried over magnesium sulphate and concentrated in vacuo. After chromatographing the crude product on silica gel using a hexane-ethyl acetate and an ethyl acetate-acetone gradient, 241 mg of 11β-fluoro-7α-{5-[(3,4,4,5,5,5-hexafluoropent-2-enyl)methyl-amino]pentyl}oestra-1,3,5(10)-triene-3,17β-diol of melting point 122° C. are obtained, [α]D=+47° (c=0.5 in CHCl3)

reactant | 11β-fluoro-7α-{5-[(3,4,4,5,5,5-hexafluoro-pent-2-enyl)methylamino]pentyl}-3-hydroxyestra-1,3,5(10)-trien-17-one | 1.86 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(C)CC=C(C(C(F)(F)F)(F)F)F)O | C29H36F7NO2
reactant | sodium borohydride | 222 mg | [BH4-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 11β-fluoro-7α-{5-[(3,4,4,5,5,5-hexafluoropent-2-enyl)methyl-amino]pentyl}oestra-1,3,5(10)-triene-3,17β-diol | 241 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(C)CC=C(C(C(F)(F)F)(F)F)F)O | C29H38F7NO2
